US07115750B1
N-[4-(Hydroxymethyl)phenyl]-4-methoxy-N-methylbenzamide
THF solution (1M, 16 ml) of borane was added dropwise to THF solution (10 ml) of 4-[N-(4-methoxybenzoyl)-N-methylamino]benzoic acid (1.14 g) under ice-cooling, which was stirred for 15 minutes, and then stirred at room temperature for 1 hour. After water was added to the reaction mixture, 1N hydrochloric acid was further added, and extraction was conducted using ethyl acetate. The organic layer was washed with water and saturated sodium bicarbonate, and saturated aqueous sodium chloride solution, dried, and then concentrated. The residue was purified using silica gel chromatography (development solvent; hexane˜hexane:ethyl acetate=1:2), and recrystallized (ethyl acetate-hexane) to give the titled compound (770 mg).

reactant | THF | 1M, 16 ml | C1CCOC1 | C4H8O
reactant | borane | B | BH3
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | 4-[N-(4-methoxybenzoyl)-N-methylamino]benzoic acid | 1.14 g | COC1=CC=C(C(=O)N(C)C2=CC=C(C(=O)O)C=C2)C=C1 | C16H15NO4
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | water | O | H2O
product | N-[4-(Hydroxymethyl)phenyl]-4-methoxy-N-methylbenzamide | 770 mg | OCC1=CC=C(C=C1)N(C(C1=CC=C(C=C1)OC)=O)C | C16H17NO3
